US04214094
3.47 g of benzyl bromide is added dropwise to a mixture of 6 g of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate hydrochloride, 3.24 g of potassium carbonate and 90 ml of dimethylformamide, and the resulting mixture is stirred at 60° C. for 3 hours. The reaction mixture is poured into 300 ml of ice-water and is extracted three times with 100 ml of ethyl acetate and twice with 50 ml of the same. The extract is washed with a saturated aqueous solution of sodium chloride and then dried. The solvent is distilled off from the dried extract, and the residue (7.5 g) is purified by column chromatography with 150 g of silica gel, using chloroform as a developer, to give 5.7 g of ethyl 2-[4-{N-(4-chlorophenyl)-N-benzylaminomethyl}phenoxy]-2-methylpropionate. The product is dissolved in 100 ml of ether, and dried hydrogen chloride gas is introduced into the solution. The resulting crystals are collected by filtration and recrystallized from isopropyl alcohl to give 4.3 g of ethyl 2-[4-{N-(4-chlorophenyl)-N-benzylaminomethyl}phenoxy]-2-methylpropionate hydrochloride, mp 137° to 141° C.

reactant | benzyl bromide | 3.47 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate hydrochloride | 6 g | Cl.ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1
reactant | potassium carbonate | 3.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[4-{N-(4-chlorophenyl)-N-benzylaminomethyl}phenoxy]-2-methylpropionate | 5.7 g | ClC1=CC=C(C=C1)N(CC1=CC=CC=C1)CC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C26H28ClNO3
